2101-03-17 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt continue to pull of BIPAP overnight and desat, did not tolerate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-3-16**] 09:24 PM
   Furosemide (Lasix) - [**2101-3-16**] 09:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-17**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 80 (69 - 82) bpm
   BP: 156/91(105) {145/84(97) - 173/143(149)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
                  Total In:
                                                                    500 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    400 mL
   Urine:
                                                                  1,075 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   14.5 g/dL
   200 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.4 mEq/L
   12 mg/dL
   95 mEq/L
   138 mEq/L
   46.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
   WBC
   7.3
   Hct
   46.3
   Plt
   194
   Cr
   1.0
   Glucose
   200
   Other labs: Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Mr [**Known lastname 10905**] is a 49M with DM, cardiomyopathy with h/o cocaine abuse who
   presents with cough and SOB.
   .
   #Dypsnea- Etiology presumed to be multifactorial including an acute
   decompensation of his non ischemic heart failure, a possible viral URI
   as well as underlying pulmonary HTN in setting of uncontrolled OSA. CXR
   on admission without evidence of pneumonia, LENI negative for DVT, BNP
   2595. (no prior). Cardiac enzymes flat. Repeat ECHO today showed EF 25%
   (unchanged from prior).
   -Currently pt appears volume overload; will diurese with 40mg IV; goal
   1 Liter negative
   - Would start hydralazine 37.5mg / Isosorbide 20mg daily
   -Continue Carvedilol, Lisinopril and aspirin
   -Will need to titrate meds to improve afterload reduction-start
   isosorbide
   -Fluid Restriction 1.5L, Low Na diet
   -Daily weight
   #HTN-Pts BP has been difficult to control on arrival; but starting to
   improve after home medications resumed; may have been due to
   non-compliance.
   - Continue lisinopril, carvedilol, hyralazine / isosorbide per A-HEFT
   trial
   #. Non ischemic cardiomyopathy: As above, likely contributing to
   dyspnea, EF 25% in setting of recent substance abuse (cocaine)
   -- maximum medical thereapy as above.
   -- Goal diuresis 1 to 1.5L
   #OSA-Pt has presumed OSA and has had desaturations overnight, daytime
   fatigue, snoring and witnessed apneic epsiodes; sleep medicine was
   consulted and felt patient likely has both an obstructive and central
   component. Goal is to initiate BIPAP while in hospital and then
   consider outpatient sleep study
   -Plan for BIPAP tonight again
   - Daytime BIPAP titration for acclimatation
   -Will do 10 minutes off of BIPAP on oxygento document desaturations
   -Check ABG in AM
   #[**Name (NI) 10906**] Pt noted to have increasing warmth/erythema on right lower
   extremity
   - Continue Augmentin and TMPSMX
   .
   #DM- holding Metformin and continue ISS
   .
   #Hyperlipidemia-Continue home statin
   .
   #FEN diabetic, low Na/diabetic/fluid restrict as above
   #Access PIV
   #PPX heparin SQ
   #CODE: FULL
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-3-16**] 08:03 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending BiPAP titration

2101-03-17 09:34:00 Physician Attending Progress Note
Chief Complaint: Worsening shortness of breath and LE pain.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   OSA + likely OHS for bipap trial
   24 Hour Events:
   Overnight continued to look fluid overloaded and was diuresed further
   overnight. Didnot tolerate bipap mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-3-16**] 09:24 PM
   Heparin Sodium (Prophylaxis) - [**2101-3-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-17**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 74 (69 - 82) bpm
   BP: 161/93(110) {145/84(97) - 173/143(149)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
                  Total In:
                                                                    500 mL
                                                                    300 mL
   PO:
                                                                    500 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    400 mL
   Urine:
                                                                  1,075 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  warm
   Neurologic: awake alert and oriented
   Lungs distant anteriolory
   S1, S2, distant.
   LE 2+ edema
   Cellulitis a the mark in the right lef
   Labs / Radiology
   14.5 g/dL
   194 K/uL
   200 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.4 mEq/L
   12 mg/dL
   95 mEq/L
   138 mEq/L
   46.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
   WBC
   7.3
   Hct
   46.3
   Plt
   194
   Cr
   1.0
   Glucose
   200
   Other labs: Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: difficult to intepret, low lung volumes, bibasilar
   atelectasis, ? pulmonary artery enlargement, ? pulmonary edema.
   Assessment and Plan
 HYPERTENSION, BENIGN: continue lisinopril, carvedilol, now started on
   nitrate, will add hydralazine.
 OBSTRUCTIVE SLEEP APNEA (OSA): patient willing to retry bipap today..
   will try this while awake and this might help him get used to it and
   then again in the evening. We will titrate up pressures ,using a
   ventilator bipap setting or other titratable bipap.
 DYSPNEA (SHORTNESS OF BREATH): continue diuresis goal -1L, BP control
   with additional nitrate and hydralazine goal <130/90.
 DM: continue insulin sliding scale, can add sliding scale.
Cellulitis: continue bactrim and augmentin. seems to be responding.
   ICU Care
   Nutrition: small snacks between bipap
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-3-16**] 08:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2101-03-18 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-17**]
   - Started on daytime BIPAP, ABG 7.31 pCO2 79 pO2 74
   - Given Lasix 40mg x 2 output ~ -1L total
   - Tolerated BIPAP for about 4 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-3-17**] 08:00 PM
   Furosemide (Lasix) - [**2101-3-18**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-18**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 76 (69 - 84) bpm
   BP: 121/77(85) {74/12(19) - 161/93(110)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 91%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
                  Total In:
                                                                  1,200 mL
                                                                    300 mL
   PO:
                                                                  1,200 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                  1,200 mL
   Urine:
                                                                  1,850 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 91%
   ABG: 7.31/78.[**Numeric Identifier 274**]/74/37/8
   PaO2 / FiO2: 74
   Physical Examination
   GEN: Morbidly obese, no distress
   CV Regular rate, S3, no rubs
   LUNGS: Distant lung sounds, some bibasilar crackles
   ABD: Soft, Obese, non tender, non distended.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse:2+)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   13.2 g/dL
   229 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   15 mg/dL
   93 mEq/L
   136 mEq/L
   42.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
                             [**2101-3-17**]  02:57 PM
                             [**2101-3-17**]  05:25 PM
                             [**2101-3-18**]  03:51 AM
   WBC
   7.3
   7.4
   Hct
   46.3
   42.1
   Plt
   194
   214
   Cr
   1.0
   0.9
   1.0
   TCO2
   42
   Glucose
   200
   194
   229
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Mr [**Known lastname 10905**] is a 49M with DM, cardiomyopathy with h/o cocaine abuse who
   presents with cough and SOB.
   .
   #Dypsnea- Etiology presumed to be multifactorial including an acute
   decompensation of his non ischemic heart failure, a possible viral URI
   as well as underlying pulmonary HTN in setting of uncontrolled OSA. CXR
   on admission without evidence of pneumonia, LENI negative for DVT, BNP
   2595. (no prior). Cardiac enzymes flat. Repeat ECHO today showed EF 25%
   (unchanged from prior).
   -Currently pt appears volume overload; will diurese with 80mg IV; goal
   1 Liter negative
   - Would start hydralazine 37.5mg / Isosorbide 20mg daily
   -Continue Carvedilol, Lisinopril and aspirin
   -Will need to titrate meds to improve afterload reduction-start
   isosorbide
   -Fluid Restriction 1.5L, Low Na diet
   -Daily weight
   - will treat for possible infection with Vanco (given already being
   changed for cellulitis) and Levoflox
   #HTN-Pts BP has been difficult to control on arrival; but starting to
   improve after home medications resumed; may have been due to
   non-compliance.
   - Continue lisinopril, carvedilol, hyralazine / isosorbide per A-HEFT
   trial
   #. Non ischemic cardiomyopathy: As above, likely contributing to
   dyspnea, EF 25% in setting of recent substance abuse (cocaine)
   -- maximum medical thereapy as above.
   -- Goal diuresis 1 to 1.5L
   #OSA-Pt has presumed OSA and has had desaturations overnight, daytime
   fatigue, snoring and witnessed apneic epsiodes; sleep medicine was
   consulted and felt patient likely has both an obstructive and central
   component. Goal is to initiate BIPAP while in hospital and then
   consider outpatient sleep study
   -Plan for BIPAP tonight again
   - Daytime BIPAP titration for acclimatation
   -Will do 10 minutes off of BIPAP on oxygento document desaturations
   -Check ABG on BiPAP
   #[**Name (NI) 10906**] Pt noted to have increasing warmth/erythema on right lower
   extremity
   - change to vancomycin
   .
   #DM- holding Metformin and continue ISS
   .
   #Hyperlipidemia-Continue home statin
   .
   #FEN diabetic, low Na/diabetic/fluid restrict as above
   #Access PIV
   #PPX heparin SQ
   #CODE: FULL
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-3-17**] 09:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-03-18 12:03:00 Physician Attending Progress Note
Chief Complaint: OSA/OHS for bipap initiation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tolerated Bipap for 4 hours then off and on all night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2101-3-18**] 08:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-3-17**] 08:00 PM
   Furosemide (Lasix) - [**2101-3-18**] 04:36 AM
   Other medications:
   ASA 81, Bactrim I [**Hospital1 **], augmentin 500 q8, insulin sliding scale,
   carvediolol [**Hospital1 **], colace [**Hospital1 **], simvastatin, lisinopril40,  hydral 37.8,
   isordil 20 tid, tylenol prn.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-18**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 70 (69 - 84) bpm
   BP: 178/95(115) {74/12(19) - 178/99(115)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
                  Total In:
                                                                  1,200 mL
                                                                  1,040 mL
   PO:
                                                                  1,200 mL
                                                                  1,040 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                  1,600 mL
   Urine:
                                                                  1,850 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: 7.31/78.[**Numeric Identifier 274**]/74/37/8
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, LLE with stable erythema, not improved
   Neurologic: Attentive, Alert, oriented, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.2 g/dL
   214 K/uL
   229 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   15 mg/dL
   93 mEq/L
   136 mEq/L
   42.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
                             [**2101-3-17**]  02:57 PM
                             [**2101-3-17**]  05:25 PM
                             [**2101-3-18**]  03:51 AM
   WBC
   7.3
   7.4
   Hct
   46.3
   42.1
   Plt
   194
   214
   Cr
   1.0
   0.9
   1.0
   TCO2
   42
   Glucose
   200
   194
   229
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:4.7 mg/dL
   Imaging: no new CXR.
   Assessment and Plan
 Cellulitis /? pneumonia: change antibiotics to vanco and levofloxacin
   given lack of clinical response of erythema on exam, + ongoing cough
   and sputum with increased O2 requirement (possibly [**3-8**] pneumonia). CXR
   is difficult to interpret.
 Hypertension: titrate up hydral and isordil. Continue diuresis
 OSA: continue bipap trials at current settings 18/14. Will need
   outpatient sleep study soon after discharge. Can be discharged with
   loaner BiPAP machine from [**Location (un) 2582**] while he is awaiting sleep
   study (diagnostic and titration required for MA Health). Please
   continue nocturnal BiPAP on floor once discharged.
 Dyspnea: continue to diurese, and broaden antibiotic coverage to
   vanco/levo from prior antibiotics. Get up to chair, incentive
   spirometry.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-3-17**] 09:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes

2101-03-19 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Changed abx to Vanc/Levo
   -Lasix/UOP gave 80mg IV and put out 900cc
   -BIPAP: 7.41/65/57/43
   -PICC line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2101-3-18**] 08:38 AM
   Levofloxacin - [**2101-3-18**] 04:02 PM
   Vancomycin - [**2101-3-19**] 05:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-3-18**] 03:20 PM
   Heparin Sodium (Prophylaxis) - [**2101-3-18**] 09:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-19**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 77 (70 - 89) bpm
   BP: 162/106(119) {108/22(63) - 182/110(119)} mmHg
   RR: 19 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
             Total In:
                                                                  2,433 mL
                                                                    676 mL
   PO:
                                                                  1,920 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    513 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                    550 mL
   Urine:
                                                                  3,750 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 96%
   ABG: 7.41/65/57/33/12
   PaO2 / FiO2: 163
   Physical Examination
   Labs / Radiology
   223 K/uL
   13.7 g/dL
   168 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.2 mEq/L
   13 mg/dL
   95 mEq/L
   136 mEq/L
   44.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
                             [**2101-3-17**]  02:57 PM
                             [**2101-3-17**]  05:25 PM
                             [**2101-3-18**]  03:51 AM
                             [**2101-3-18**]  05:08 PM
                             [**2101-3-19**]  12:31 AM
                             [**2101-3-19**]  02:49 AM
   WBC
   7.3
   7.4
   7.1
   Hct
   46.3
   42.1
   44.0
   Plt
   194
   214
   223
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   TCO2
   42
   43
   Glucose
   200
   194
   229
   168
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr [**Known lastname 10905**] is a 49M with DM, cardiomyopathy with h/o cocaine abuse who
   presents with cough and SOB.
   .
   #Dypsnea- Etiology presumed to be multifactorial including an acute
   decompensation of his non ischemic heart failure, a possible viral URI
   as well as underlying pulmonary HTN in setting of uncontrolled OSA. CXR
   on admission without evidence of pneumonia, LENI negative for DVT, BNP
   2595. (no prior). Cardiac enzymes flat. Repeat ECHO showed EF 25%
   (unchanged from prior).  Continues to have high O2 requirement  but
   likely near baseline.
   -Continue to diuresed with 80mg IV lasix for goal -1Liter
   - Continue  hydralazine 37.5mg / Isosorbide 20mg daily
   -Continue Carvedilol, Lisinopril and aspirin
   - titrate meds to improve afterload reduction
   -Fluid Restriction 1.5L, Low Na diet
   -Daily weight
   - Continue vanc/levo
   #HTN-Pts BP has been difficult to control on arrival; but starting to
   improve after home medications resumed; may have been due to
   non-compliance. Currently BP control improving on adjusted regimen.
   - Continue lisinopril, carvedilol, hyralazine / isosorbide per A-HEFT
   trial
   #. Non ischemic cardiomyopathy: As above, likely contributing to
   dyspnea, EF 25% in setting of recent substance abuse (cocaine)
   -- maximum medical therapy as above.
   -- Goal diuresis 1 Liter
   #OSA-Pt has presumed OSA and has had desaturations overnight, daytime
   fatigue, snoring and witnessed apneic epsiodes; sleep medicine was
   consulted and felt patient likely has both an obstructive and central
   component. Goal is to initiate BIPAP while in hospital and then
   consider outpatient sleep study
   -Continue bipap at night
   - Daytime BIPAP titration
   #[**Name (NI) 10906**] Pt noted to have increasing warmth/erythema on right lower
   extremity
   - change to vancomycin and levofloxacin on [**3-18**]
   .
   #DM- holding Metformin and continue ISS
   .
   #Hyperlipidemia-Continue home statin
   .
   #FEN diabetic, low Na/diabetic/fluid restrict as above
 CELLULITIS
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition: Regular
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC line placed today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not needed
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possible transfer to floor
   ------ Protected Section ------
   Pt seen on rounds
   See above for details of history and plan
   Pt having trouble with BiPAP compliance. Asymptomatic when desat
s to
   80
   Continuing to diurese
   Treating for presumed CAP/Cellulitis
   PE
 Morbidly obese
            Alert and comfortable
           Exam problem[**Name (NI) **] given his size but grosslly lungs clear/HS
   very distant.
           Cellulitis on  RLE
   Imp:
   Continuing to treat for presumed CAP/Cellulitis
   Encourage BiPAP; ultimately needs titration study.
   Diuresisng
   Titrating BP meds
   Bariatric Surgery consult
   Time Spent: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2101-3-19**] 10:39 ------

2101-03-20 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2101-3-19**] 11:00 AM
   -PICC placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2101-3-18**] 08:38 AM
   Levofloxacin - [**2101-3-19**] 12:00 PM
   Vancomycin - [**2101-3-19**] 08:46 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-3-19**] 10:29 AM
   Heparin Sodium (Prophylaxis) - [**2101-3-19**] 02:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 76 (73 - 85) bpm
   BP: 152/84(95) {109/57(69) - 189/107(123)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
             Total In:
                                                                  2,495 mL
                                                                      1 mL
   PO:
                                                                  1,600 mL
             TF:
   IVF:
                                                                    895 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    300 mL
   Urine:
                                                                  3,700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,205 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   NAD
   HEENT Anicteric, conjunctiva pink, MMM
   Neck Large neck, JVP appears to be at least 10cm
   Pulm Lung exam very challenging due to his habitus but no rales
   appreciated
   CV Regular S1 S2 no m/r/g appreciated
   Abd Large pannus, +bowel sounds, nontender
   Extrem 2+ bilateral edema, hand-sized area of erythema R shin with
   warmth slightly tender
   Neuro Alert awake, not somnolent, moving all extremities
   Labs / Radiology
   197 K/uL
   13.3 g/dL
   198 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.1 mEq/L
   12 mg/dL
   95 mEq/L
   136 mEq/L
   43.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2101-3-17**]  03:43 AM
                             [**2101-3-17**]  02:57 PM
                             [**2101-3-17**]  05:25 PM
                             [**2101-3-18**]  03:51 AM
                             [**2101-3-18**]  05:08 PM
                             [**2101-3-19**]  12:31 AM
                             [**2101-3-19**]  02:49 AM
                             [**2101-3-19**]  06:01 PM
                             [**2101-3-20**]  02:58 AM
   WBC
   7.3
   7.4
   7.1
   7.0
   Hct
   46.3
   42.1
   44.0
   43.0
   Plt
   194
   214
   223
   197
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   0.8
   0.8
   TCO2
   42
   43
   Glucose
   200
   194
   229
   168
   206
   198
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 CELLULITIS
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DYSPNEA (SHORTNESS OF BREATH)
   Mr [**Known lastname 10905**] is a 49M with DM, cardiomyopathy with h/o cocaine abuse who
   presents with cough and SOB.
   .
   #Dypsnea- Etiology presumed to be multifactorial including an acute
   decompensation of his non ischemic heart failure, a possible viral URI
   as well as underlying pulmonary HTN in setting of uncontrolled OSA. CXR
   on admission without evidence of pneumonia, LENI negative for DVT, BNP
   2595. (no prior). Cardiac enzymes flat. Repeat ECHO showed EF 25%
   (unchanged from prior).  Continues to have high O2 requirement  but
   likely near baseline.
   -Continue to diuresed with 80mg IV lasix for goal -1Liter
   - Continue  hydralazine 37.5mg / Isosorbide 20mg daily
   -Continue Carvedilol, Lisinopril and aspirin
   - titrate meds to improve afterload reduction
   -Fluid Restriction 1.5L, Low Na diet
   -Daily weight
   - Continue vanc/levo
   #HTN-Pts BP has been difficult to control on arrival; but starting to
   improve after home medications resumed; may have been due to
   non-compliance. Currently BP control improving on adjusted regimen.
   - Continue lisinopril, carvedilol, hyralazine / isosorbide per A-HEFT
   trial
   #. Non ischemic cardiomyopathy: As above, likely contributing to
   dyspnea, EF 25% in setting of recent substance abuse (cocaine)
   -- maximum medical therapy as above.
   -- Goal diuresis 1 Liter
   #OSA-Pt has presumed OSA and has had desaturations overnight, daytime
   fatigue, snoring and witnessed apneic esiodes; sleep medicine was
   consulted and felt patient likely has both an obstructive and central
   component. Goal is to initiate BIPAP while in hospital and then
   consider outpatient sleep study
   -Continue bipap at night
   - Daytime BIPAP titration
   #[**Name (NI) 10906**] Pt noted to have increasing warmth/erythema on right lower
   extremity
   - change to vancomycin and levofloxacin on [**3-18**]
   .
   #DM- holding Metformin and continue ISS
   .
   #Hyperlipidemia-Continue home statin
   .
   #FEN diabetic, low Na/diabetic/fluid restrict as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-3-19**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Pt seen and evaluated with team on rounds. Please see note above for
   details of history and plan.
   No significant overnight events. Accommodating slowly to using BiPAP.
   Still desat
ing overnight.
   Moving around in room. Hemodynamically unchanged and stable
   Time Spent
 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2101-3-20**] 09:33 ------

2101-03-21 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no events
   - spoke with nursing supervisor. Beds were tight so difficult to
   discharge. Will touch base tomorrow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2101-3-18**] 08:38 AM
   Vancomycin - [**2101-3-21**] 12:00 AM
   Levofloxacin - [**2101-3-21**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-3-20**] 10:45 AM
   Heparin Sodium (Prophylaxis) - [**2101-3-20**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-3-21**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 80 (70 - 82) bpm
   BP: 154/103(112) {121/66(85) - 222/132(150)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 237 kg (admission): 237 kg
   Height: 76 Inch
             Total In:
                                                                  1,741 mL
                                                                    260 mL
   PO:
                                                                  1,540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    201 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                      0 mL
   Urine:
                                                                  2,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,209 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///36/
   Physical Examination
   NAD
   HEENT Anicteric, conjunctiva pink, MMM
   Neck Large neck, JVP appears to be at least 10cm
   Pulm Lung exam very challenging due to his habitus but no rales
   appreciated
   CV Regular S1 S2 no m/r/g appreciated
   Abd Large pannus, +bowel sounds, nontender
   Extrem 2+ bilateral edema, hand-sized area of erythema R shin with
   warmth slightly tender
   Neuro Alert awake, not somnolent, moving all extremities
   Labs / Radiology
   235 K/uL
   13.6 g/dL
   152 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.1 mEq/L
   9 mg/dL
   95 mEq/L
   139 mEq/L
   42.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2101-3-17**]  02:57 PM
                             [**2101-3-17**]  05:25 PM
                             [**2101-3-18**]  03:51 AM
                             [**2101-3-18**]  05:08 PM
                             [**2101-3-19**]  12:31 AM
                             [**2101-3-19**]  02:49 AM
                             [**2101-3-19**]  06:01 PM
                             [**2101-3-20**]  02:58 AM
                             [**2101-3-20**]  05:02 PM
                             [**2101-3-21**]  03:28 AM
   WBC
   7.4
   7.1
   7.0
   5.9
   Hct
   42.1
   44.0
   43.0
   42.8
   Plt
   [**Telephone/Fax (3) 10967**]35
   Cr
   0.9
   1.0
   1.0
   1.0
   0.8
   0.8
   0.8
   0.9
   TCO2
   42
   43
   Glucose
   194
   229
   168
   [**Telephone/Fax (3) 10968**]
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 CELLULITIS
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DYSPNEA (SHORTNESS OF BREATH)
   Mr [**Known lastname 10905**] is a 49M with DM, cardiomyopathy with h/o cocaine abuse who
   presents with cough and SOB.
   .
   #Dypsnea- Etiology presumed to be multifactorial including an acute
   decompensation of his non ischemic heart failure, a possible viral URI
   as well as underlying pulmonary HTN in setting of uncontrolled OSA. CXR
   on admission without evidence of pneumonia, LENI negative for DVT, BNP
   2595. (no prior). Cardiac enzymes flat. Repeat ECHO showed EF 25%
   (unchanged from prior).  Continues to have high O2 requirement  but
   likely near baseline.
   - Continue to diuresed with 80mg IV lasix for goal -1Liter
   - Continue  hydralazine 37.5mg / Isosorbide 40mg daily
   -Continue Carvedilol, Lisinopril and aspirin
   - titrate meds to improve afterload reduction
   -Fluid Restriction 1.5L, Low Na diet
   -Daily weight
   - Continue vanc/levo
   #HTN-Pts BP has been difficult to control on arrival; but starting to
   improve after home medications resumed; may have been due to
   non-compliance. Currently BP control improving on adjusted regimen.
   - Continue lisinopril, carvedilol, hyralazine / isosorbide per A-HEFT
   trial
   #. Non ischemic cardiomyopathy: As above, likely contributing to
   dyspnea, EF 25% in setting of recent substance abuse (cocaine)
   -- maximum medical therapy as above.
   -- Goal diuresis 1 Liter
   #OSA-Pt has presumed OSA and has had desaturations overnight, daytime
   fatigue, snoring and witnessed apneic esiodes; sleep medicine was
   consulted and felt patient likely has both an obstructive and central
   component. Goal is to initiate BIPAP while in hospital and then
   consider outpatient sleep study
   -Continue bipap at night
   - Daytime BIPAP titration
   #[**Name (NI) 10906**] Pt noted to have increasing warmth/erythema on right lower
   extremity
   - change to vancomycin and levofloxacin on [**3-18**]
   .
   #DM- holding Metformin and continue ISS
   .
   #Hyperlipidemia-Continue home statin
   .
   #FEN diabetic, low Na/diabetic/fluid restrict as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-3-19**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Pt seen and evaluated on rounds with MICU team. Please see above for
   details of histroy and plan.
   In addition:
   No acute events over the last 24 hrs
   Occasionally using BiPaP
 sats around 90%
   Unable to arrange floor transfer
   PE
   Morbidly obese
   Erythem or R shin
 area of fluctuance ? collection
   Will ultrasound and attempt to drain
   Plan
   Okay to go to floor with negotiated trigger parameters.
   Continue IV Ab for cellulitis
   Time Spent: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2101-3-21**] 11:44 ------